US05475003
5-Nitro-4-indanol (4.0 g, 22.3 mmol) was dissolved in 400 ml of CH2Cl2 and cooled to 0° C. Triethylamine (15.5 ml, 111.6 mmol) was added, followed by dropwise addition of triflic anhydride (18.8 ml, 111.6 mmol). The reaction mixture was stirred at 0 ° C. for 15 minutes, then poured into excess of a saturated NaHCO3 solution. The organic layer was separated, washed with water, dried over Na2SO4, filtered and evaporated to give 8.5 g of crude product as a brown oil. Purification of the crude product by flash column chromatography (25% EtOAc/hexane) gave 5-nitro-4-trifluoromethanesulfonyloxyindan (6.4 g, 92% yield) as a red-brown oil, which crystallized to a solid. Analytical data: m.p. 44°-46° C.; 1H NMR (300 MHz, CDCl3) δ 7.93 (d, 1H, J=8.1), 7.35 (d, 1H, J=8.2 ), 3.15-3.05 (m, 4H), 2.28-2.18 (m, 2H); 13C NMR (300 MHz, CDCl3) δ 154.76, 140.13, 137.62, 125.59, 124.78, 124.26, 120.53, 116.28, 112.02, 33.69, 20.76, 25.82; MS m/z 311. Elemental analysis calculated for C10H8F3NO5S: C, 38.56%; H, 2.59%, N, 4.50%. Found C, 38.93%; H, 2.62%; N, 4.49%.

reactant | 5-Nitro-4-indanol | 22.3 mmol, 4.0 g | [N+](=O)([O-])C1=C(C=2CCCC2C=C1)O | C9H9NO3
reactant | Triethylamine | 111.6 mmol, 15.5 ml | C(C)N(CC)CC | C6H15N
reactant | triflic anhydride | 111.6 mmol, 18.8 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
product | 5-nitro-4-trifluoromethanesulfonyloxyindan | 6.4 g, 92% yield | [N+](=O)([O-])C=1C(=C2CCCC2=CC1)OS(=O)(=O)C(F)(F)F | C10H8F3NO5S
